US07214835B2
A 1.58 M butyllithium/hexane solution (16.4 ml) was added dropwise to a tetrahydrofuran (25 ml) solution of 2-(4-propylphenyl)-1,7,8-trifluoronaphthalene (6.5 g) at −65° C., and the reaction solution was stirred for 1 hour. A tetrahydrofuran (25 ml) solution of methyl iodide (3.7 g) was added dropwise to the reaction solution for 30 minutes, and then the reaction temperature was increased to 0° C. Acetic acid (1.85 ml) and 30% hydrogen peroxide (3 ml) were added to the reaction solution, followed by stirring for a while. Water was added to the reaction solution. The organic layer was removed, and the aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with water and brine, and concentrated. Then, 6-(4-propylphenyl)-3,4,5-trifluoro-2-naphthol was obtained.

reactant | butyllithium hexane | 1.58 M, 16.4 ml | C(CCC)[Li].CCCCCC
reactant | 2-(4-propylphenyl)-1,7,8-trifluoronaphthalene | 6.5 g | C(CC)C1=CC=C(C=C1)C1=C(C2=C(C(=CC=C2C=C1)F)F)F | C19H15F3
reactant | methyl iodide | 3.7 g | CI | CH3I
reactant | hydrogen peroxide | 3 ml | OO | H2O2
solvent | Water | O | H2O
solvent | Acetic acid | 1.85 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 6-(4-propylphenyl)-3,4,5-trifluoro-2-naphthol | C(CC)C1=CC=C(C=C1)C=1C(=C2C(=C(C(=CC2=CC1)O)F)F)F | C19H15F3O
